US05204353
53 g (323 mmol) of 2-amino-4,6-dichloropyrimidine, 40.4 g (323 mmol) of 2-fluorobenzylamine and 33.4 g (330 mmol) of triethylamine are dissolved in 800 ml of ethanol and the reaction mixture is heated under reflux for 20 hours. After 400 ml of ethanol have been distilled off, the residue is diluted with 500 ml of water, and the precipitated product is filtered off with suction and recrystallised from 1 l of toluene. In this manner 2-amino-4-chloro-6-(2-fluorobenzylamino)-pyrimidine having a melting point of 130°-133° is obtained.

reactant | 2-amino-4,6-dichloropyrimidine | 323 mmol, 53 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | 2-fluorobenzylamine | 323 mmol, 40.4 g | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | triethylamine | 330 mmol, 33.4 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 2-amino-4-chloro-6-(2-fluorobenzylamino)-pyrimidine | NC1=NC(=CC(=N1)Cl)NCC1=C(C=CC=C1)F | C11H10ClFN4
